US07662974B2
Under argon atmosphere, 8 mL of THF and 0.15 mL (1.18 mmol) of chlorotrimethylsilane were added to 1.04 g (16 mmol) of zinc powders, and the mixture was stirred at 35˜40° C. for 5 hours. A solution of 2.36 mL (16 mmol) of tert-butyl bromoacetate in 20 mL of THF was added dropwise at 45˜52° C. over 10 minutes. The mixture was stirred at 65˜67° C. for 1 hour, and cooled to 25° C. 8.5 mL of THF was added to 1.32 g (4.5 mmol, 1.25 eq) of (+)-cinchonine. The above Reformatsky reagent was added dropwise at 4˜6° C. for 15 minutes. 1.16 mL (14.4 mmol, 4 eq) of pyridine was added dropwise at 5˜7° C. over 2 minutes. The mixture was stirred at 5˜6° C. for 30 minutes. A solution of 1.88 g (3.6 mmol) of N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide in 15 mL of THF was added dropwise at −44˜−39° C. over 7 minutes. The mixture was stirred at −44˜−35° C. for 5 hours and 20 minutes. 10 mL of 1N hydrochloric acid was added dropwise, and warmed to 0° C. The mixture was diluted with 50 mL of ethyl acetate, 10 mL of 1N hydrochloric acid was added, and the layers were separated. The organic layer was washed successively with 20 mL of 1N hydrochloric acid two times, 20 mL of water, 20 mL of an aqueous saturated sodium bicarbonate solution. To the organic layer were added 10 mL of 0.1N hydrochloric acid, 10 mL of water and 10 mL of ethyl acetate, and the layers were separated. The organic layer was washed with 20 mL of an aqueous saturated sodium chloride solution, and concentrated under reduced pressure at 20° C. 10 mL of n-hexane was added to the concentration residue, crystals were loosened, filtered, and washed with 10 mL of n-hexane. Air-drying to a constant weight afforded 2.48 g of tert-butyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate (enantiomer excess 95.0% ee).

reactant | chlorotrimethylsilane | 1.18 mmol, 0.15 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-butyl bromoacetate | 16 mmol, 2.36 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | (+)-cinchonine | 4.5 mmol, 1.32 g, 1.25 eq | C=C[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=CC=NC4=CC=CC=C34)O | C19H22N2O
reactant | pyridine | 14.4 mmol, 1.16 mL, 4 eq | N1=CC=CC=C1 | C5H5N
reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 3.6 mmol, 1.88 g | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 10 mL | Cl | ClH
catalyst | zinc | 16 mmol, 1.04 g | [Zn] | Zn
solvent | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 2.48 g | O[C@](CC(=O)OC(C)(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C41H39N3O4
